US06313122B1
B. N-[2-(4-tert-Butylbenzoyloxy)phenyl]-4-methoxybenzamide
A solution of N-(2-hydroxyphenyl)-4-methoxybenzamide (0.486 g, 2.00 mmol) in methylene chloride (35 mL) was cooled to 0° C. Triethylamine (0.281 mL, 2.00 mmol) was added followed by the dropwise addition of a solution of 4-tert-butylbenzoyl chloride (0.393 mL, 2.00 mmol) in methylene chloride (15 mL). The reaction mixture was allowed to warm to room temperature over 16 h and washed with cold water, dried (magnesium sulfate), filtered, and concentrated in vacuo. Crystallization of the residue from diethyl ether provided 0.563 g (70%) of the title compound.

reactant | N-(2-hydroxyphenyl)-4-methoxybenzamide | 2.00 mmol, 0.486 g | OC1=C(C=CC=C1)NC(C1=CC=C(C=C1)OC)=O | C14H13NO3
reactant | Triethylamine | 2.00 mmol, 0.281 mL | C(C)N(CC)CC | C6H15N
reactant | 4-tert-butylbenzoyl chloride | 2.00 mmol, 0.393 mL | C(C)(C)(C)C1=CC=C(C(=O)Cl)C=C1 | C11H13ClO
solvent | methylene chloride | 35 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 15 mL | C(Cl)Cl | CH2Cl2
product | N-[2-(4-tert-Butylbenzoyloxy)phenyl]-4-methoxybenzamide | 0.563 g, 70% | C(C)(C)(C)C1=CC=C(C(=O)OC2=C(C=CC=C2)NC(C2=CC=C(C=C2)OC)=O)C=C1 | C25H25NO4
